US04649142
To a solution of 6-(3,4-dimethoxyphenyl)-1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (2.0 g) in acetic acid (100 ml) was added N-chlorosuccinimide (0.97 g), and the mixture was stirred at 100° C. for 5 hours. After cooling, the reaction mixture was evaporated, and dissolved in chloroform, The solution was washed with aqueous sodium bicarbonate, and dried over magnesium sulfate. After removal of the solvent, resulting mass was crystallized from ethanol, to give 5-chloro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (1.79 g).

reactant | 6-(3,4-dimethoxyphenyl)-1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 2.0 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=O | C14H16N2O4
reactant | N-chlorosuccinimide | 0.97 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 1.79 g | ClC=1C(N(C(N(C1C1=CC(=C(C=C1)OC)OC)C)=O)C)=O | C14H15ClN2O4
